US07737149B2
A 1M solution of borane tetrahydrofuran complex (12.00 mL, 12.00 mmol) in THF, was added dropwise to a stirred suspension of 2-(1-tert-butoxycarbonylpiperazin-4-yl)propionic acid (2.58 g, 10 mmol) in tetrahydrofuran (50 mL) at 0° C., over a period of 10 mins under nitrogen. The resulting solution was stirred at 60° C. for 8 h. This was quenched with acetic acid/water (10 ml, 1:2 mixture) and evaporated to dryness. The residue was dissolved in ethyl acetate (50 ml), washed with saturated sodium bicarbonate (25 ml) and water, dried over MgSO4, filtered and evaporated to dryness to give tert-butyl 4-(1-hydroxypropan-2-yl)piperazine-1-carboxylate (0.810 g, 33.2%)

reactant | 2-(1-tert-butoxycarbonylpiperazin-4-yl)propionic acid | 10 mmol, 2.58 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(=O)O)C | C12H22N2O4
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(1-hydroxypropan-2-yl)piperazine-1-carboxylate | 0.810 g, 33.2% | OCC(C)N1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O3
